US05130323
A solution of (2S,4R)-1-benzyl-4-(4-chlorophenylsulfonylamino)-2-[(Z)-5-methoxycarbonyl-1-pentenyl]pyrrolidine (320 mg) in a mixture of methanol (5 ml) and 1N-sodium hydroxide (3 ml) was stirred at room temperature for 3 hours and the volatile solvent was evaporated in vacuo. Water (20 ml) was added to the residue and the aqueous solution was adjusted to pH 7 with 1N-hydrochloric acid. The precipitated solid was collected by filtration and dried in vacuo to give (2S,4R)-1-benzyl-2-[(Z)-5-carboxy-1-pentenyl]-4-(4-chlorophenylsulfonylamino)pyrrolidine (176 mg).

reactant | (2S,4R)-1-benzyl-4-(4-chlorophenylsulfonylamino)-2-[(Z)-5-methoxycarbonyl-1-pentenyl]pyrrolidine | 320 mg | C(C1=CC=CC=C1)N1[C@@H](C[C@H](C1)NS(=O)(=O)C1=CC=C(C=C1)Cl)\C=C/CCCC(=O)OC | C24H29ClN2O4S
reactant | sodium hydroxide | 3 ml | [OH-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | (2S,4R)-1-benzyl-2-[(Z)-5-carboxy-1-pentenyl]-4-(4-chlorophenylsulfonylamino)pyrrolidine | 176 mg | C(C1=CC=CC=C1)N1[C@@H](C[C@H](C1)NS(=O)(=O)C1=CC=C(C=C1)Cl)\C=C/CCCC(=O)O | C23H27ClN2O4S
